Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Vicodin
 
Attending: ___.
 
Chief Complaint:
Elevated creatinine
.
 
Major Surgical or Invasive Procedure:
None
.
 
History of Present Illness:
___ yo M hx etoh cirrhosis who presented yesterday to liver 
clinic for second opinion. He was diagnosed with cirrhosis in 
___, course complicated by variceal bleeding, ascites. On blood 
work yesterday noted to have elevated Cr to 2.8, no prior 
knowledge of renal insufficiency admitted today for further 
evaluation.
Pt has had a sore threat starting 5 d PTA associated with cough 
productive of yellow sputum. No fever, chills, dyspnea. +Nausea 
and vomiting about twice daily for 5 days, poor appetite. Urine 
output unchanged. No abdominal pain, diarrhea. + sick contact, 
wife had URI with sore throat and cough last week, now resolved.
.
 
Past Medical History:
Etoh cirrhosis, diagnosed in ___
- hx variceal bleeding in ___, controlled with medications
- hx ascites requiring periodic paracenteses
Hx sepsis from dog bite in ___ c/b multiorgan failure
L4-5 spinal fusion ___ at ___
hx heart murmur, last echo at ___ 2 weeks ago
HTN
Hypercholesterolemia
hx aortic aneurysm, stable for last ___ yrs
.
 
Social History:
___
Family History:
Father had CABG in ___, father and paternal grandmother with 
leukemia, uncle with unknown liver problem. No hx pulmonary 
disease, diabetes, stroke.
.
 
Physical Exam:
VS: T 972, BP 119/72, HR 66, RR 16, O2 sat 98% on RA
Gen: pleasant male, ill appearing, no acute distress, AOx3, NAD
HEENT: anicteric, MM dry, clear nasal discharge
Neck: no JVD
Resp: good air movement bilaterall, scaterred coarse ronchi 
which improve with coughing, no wheezing
CV: RRR, nl s1, s2, III/VI systolic murmur over apex, radiates 
into abdomen
Abd: +BS, soft, ND, NT, no HSM, + ascites, not tense
Extr: warm, no edema, 2+ distal pulses
Neuro: minimal asterixis, moves all exremities, no sensory 
deficits
.
 
Pertinent Results:
PERTINENT LABS:

___ 04:20PM BLOOD WBC-8.1 RBC-4.06* Hgb-13.9* Hct-42.7 
MCV-105* MCH-34.4* MCHC-32.7 RDW-13.4 Plt ___
___ 05:10AM BLOOD WBC-7.5 RBC-3.32* Hgb-11.1* Hct-33.5* 
MCV-101* MCH-33.6* MCHC-33.3 RDW-14.3 Plt ___
___ 09:20PM BLOOD Neuts-77.3* Lymphs-11.1* Monos-7.5 
Eos-3.9 Baso-0.3
___ 04:20PM BLOOD ___ PTT-38.1* ___
___ 04:20PM BLOOD UreaN-27* Creat-2.8* Na-134 K-5.6* Cl-102 
HCO3-24 AnGap-14
___ 04:20PM BLOOD ALT-37 AST-66* AlkPhos-227* TotBili-2.3*
___ 04:20PM BLOOD TotProt-7.9 Albumin-2.9* Globuln-5.0*
___ 05:45AM BLOOD Hapto-65
___ 04:20PM BLOOD TSH-3.7
___ 04:20PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE IgM HAV-NEGATIVE
___:20PM BLOOD AFP-3.6
___ 08:16PM URINE Color-Amber Appear-Hazy Sp ___
___ 08:16PM URINE Blood-LG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-SM Urobiln-1 pH-5.0 Leuks-NEG
___ 08:16PM URINE ___ Bacteri-FEW Yeast-NONE 
___ 08:16PM URINE ___ 08:16PM URINE Eos-POSITIVE  
___ 08:12AM URINE Hours-RANDOM UreaN-539 Creat-133 Na-35 
TotProt-48 Prot/Cr-0.4*
.
MICRO DATA:
URINE CX (___): negative
.
STUDIES:
CXR (___): The suggestion of a small region of increased 
radiopacity in the left mid lung at the level of the anterior 
fourth rib, may correspond to a similar abnormality on the 
lateral view projecting over the posterior aspect of the mid 
thoracic spine. This could be a superimposition of normal 
shadows or alternatively a very small focus of consolidation in 
the left lung. Lungs are otherwise clear. There is no pleural 
effusion or evidence of central adenopathy. Oblique chest views 
might be helpful in determining whether the abnormality is real.
.
ABDOMINAL ULTRASOUND WITH DOPPLER (___): 
1. Echogenic micronodular liver with no focal abnormalities 
identified.
2. Reverse flow in the right portal vein up into the left portal 
vein. Patent umbilical vein.
3. Single small gallstone with no signs of cholecystitis.
4. Large amount of ascites.
5. No hydronephrosis.
.
 
Brief Hospital Course:
___ year-old man with EtOH cirrhosis admitted with elevated 
creatinine.
.
# Acute renal failure - Creatinine was 3.1 on admission. No 
known history of kidney disease and PCP records showed that his 
creatinine had been 1.1 a few months ago. Diuretics were held. 
He received albumin and a fluid challenge overnight when he was 
admitted without any significant effect. Started midodrine and 
octreotide as well as daily albumin in case hepatorenal was 
playing a role. No new meds. No signs of obstruction and no 
hydronephrosis on ultrasound. Renal was consulted. Urine 
sediment with acanthocytes and possibly a couple red cell casts. 
UA with small amount of hematuria ___ RBC, ___ RBC on 
repeat). The renal team felt that his renal failure was likely 
due to renal hypoperfusion (could even be HRS) from combination 
of cirrhosis and aortic stenosis, with multiple recent large 
volume paracenteses. ___ also have underlying IgA nephropathy 
given proteinuria. Hep B/C serologies negative so not likely a 
GN related to those. Creatinine remained stable and he was 
discharged with the plan to follow-up with Renal as an 
outpatient for biopsy and further evaluation.
.
# Cough - Association with sore throat, rhinorrhea, similar sick 
contacts symptoms made a viral URI most likely. He remained 
afebrile without leukocytosis. A very small opacity in left lung 
was noted on CXR however given bacterial pneumonia was felt 
unlikely, he was not treated with antibiotics.
.
# Alcoholic Cirrhosis - Complicated by varices and recurrent 
ascites requiring large volume paracentesis. MELD 25. Most 
recent paracentesis on ___ with 9L removed, did not receive 
albumin. Diuretics were held as above for renal failure. 
Continued nadolol, MVI, folate. Discontinued lactulose as 
patient has no history of encephalopathy.
.
# HTN - Continued amlodipine.
.
# Hypercholesterolemia - Continued statin.
.
# Full code
 
Medications on Admission:
Amlodipine 5mg daily
Nadolol 80mg daily
Protonix 40mg bid
Folic acid 1mg daily
Lipitor 20mg daily
Lactulose 3tsp BID
Spironolactone 50mg BID
.
Allergies: vicodin - itchy
.
 
Discharge Medications:
1. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. Nadolol 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute renal failure
.
Secondary: EtOH cirrhosis, hypertension, hypercholesterolemia
.
 
Discharge Condition:
Stable.
.
 
Discharge Instructions:
You were admitted to the hospital for evaluation and treatment 
of kidney failure. Several labs were sent to work up your kidney 
failure; these were still pending at time of discharge. You will 
need to have a biopsy of your kidney to help make a diagnosis. 
.
You will have to follow up with the nephrologists next week for 
your biopsy. 
.
If you develop a tense swollen abdomen, confusion, fevers>101, 
shortness of breath, chest pain, or other symptoms that are 
concerning to you, you should return to the emergency room.
.
 
Followup Instructions:
___